US05462952
Methyl 2-[(2,6-dichloro-3-methylphenyl)amino]-benzoate
Oxalyl chloride (9.50 g, 74.8 mmol) in 20 ml of methylene chloride is added dropwise to a 0° C. suspension of meclomen (10.20 g, 34.4 mmol) and dimethylformamide (2.70 ml, 34.7 mmol) in 50 ml of methylene chloride. The clear yellow solution is stirred at 0° C. for 90 minutes then added by cannula to 110 ml of methanol at room temperature. The white suspension is stirred at room temperature overnight. The white solid is collected providing 7.52 g of product. The filtrate is concentrated and the residue partitioned between ethyl acetate and water. The organic layer is washed with brine, dried over magnesium sulfate and concentrated, providing an additional 2.45 g of product (94% total), mp 130°-131° C.

reactant | Oxalyl chloride | 74.8 mmol, 9.50 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | meclomen | 34.4 mmol, 10.20 g | CC=1C=CC(=C(C1Cl)NC=2C=CC=CC2C(=O)[O-])Cl.[Na+]
reactant | dimethylformamide | 34.7 mmol, 2.70 ml | CN(C=O)C | C3H7NO
reactant | methanol | 110 ml | CO | CH4O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-[(2,6-dichloro-3-methylphenyl)amino]-benzoate | 7.52 g | ClC1=C(C(=CC=C1C)Cl)NC1=C(C(=O)OC)C=CC=C1 | C15H13Cl2NO2
